US09259470B2
Phosphoric acid (0.40 g, 3.98 mmol), 4 Å molecular sieves (5 g) and N-iodosuccinimide (0.46 g, 1.99 mmol) were added to (S)-1-(1-(4-chloro-3-fluorophenyl)-2-((methylthio)methoxy)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.50 g, 1.00 mmol) in DMF (5 mL). The mixture was stirred at room temperature for 2 hours. The mixture was quenched with sodium thiosulfate. Sodium carbonate was added to bring pH to 10, and the solvent was removed. The resultant was purified by HPLC to afford (S)-(2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethoxy)methyl dihydrogen phosphate (13 mg). M+1=555.1.

reactant | Phosphoric acid | 3.98 mmol, 0.40 g | P(O)(O)(O)=O | H3O4P
reactant | N-iodosuccinimide | 1.99 mmol, 0.46 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-((methylthio)methoxy)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 1.00 mmol, 0.50 g | ClC1=C(C=C(C=C1)[C@@H](COCSC)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)F | C24H26ClFN4O3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-(2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethoxy)methyl dihydrogen phosphate | 13 mg | P(=O)(OCOC[C@@H](N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C1=CC(=C(C=C1)Cl)F)(O)O | C23H25ClFN4O7P
